US07247740B2
A further 49.15 g (0.328 mol) of trifluoromethanesulfonic acid, 46.10 g (0.328 mol) of benzoyl chloride and 29.49 g (0.328 mol) of dimethyl carbonate are added to the distillation residue with stirring. The reaction mixture is subsequently heated at 90° C. using an oil bath (temperature in the oil bath) for 6 hours, giving 52.00 g (yield: 96.8%) of pure methyl triflate by distillation.

reactant | trifluoromethanesulfonic acid | 0.328 mol, 49.15 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | benzoyl chloride | 0.328 mol, 46.10 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | dimethyl carbonate | 0.328 mol, 29.49 g | C(OC)(OC)=O | C3H6O3
product | methyl triflate | 52.00 g, yield: 96.8% | O(S(=O)(=O)C(F)(F)F)C | C2H3F3O3S
